US07560558B2
Compound 108: N-(4-Chlorophenyl)-5-bromo-2-[(6,7-dimethoxy-4-quinolyl)oxy]benzamide
4-Chloro-6,7-dimethoxyquinoline (100 mg), 5-bromo-4′-chlorosalicylanilide (653 mg), and 4-dimethylaminopyridine (244 mg) were suspended in o-dichlorobenzene (1 ml), and the suspension was stirred at 120° C. overnight. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give the title compound (59 mg, yield 23%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 100 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 5-bromo-4′-chlorosalicylanilide | 653 mg | BrC1=CC=C(C(C(=O)NC2=CC=C(C=C2)Cl)=C1)O | C13H9BrClNO2
catalyst | 4-dimethylaminopyridine | 244 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 1 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N-(4-Chlorophenyl)-5-bromo-2-[(6,7-dimethoxy-4-quinolyl)oxy]benzamide | 59 mg, yield 23% | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Br)OC1=CC=NC2=CC(=C(C=C12)OC)OC)=O | C24H18BrClN2O4
